US04075207
Preparation of 5,6-Dichloro-2-trifluoromethylthiazolo(4,5-b)pyrazine
A mixture of 4.9 g. (0.025 mol.) of 2-amino-5,6-dichloro-3-mercaptopyrazine and 4 ml. of trifluoroacetic anhydride in 50 ml. of xylene was heated to boiling under reflux for 1 hour. Another 4 ml. of trifluoroacetic anhydride was added and heating continued for another 4 hours. The reaction mixture was evaporated to dryness to give 3.5 g. of green solid. Infra-red analysis indicated a mixture of an amide and the desired product. It was recrystallized from 50 ml. of 2-propanol to give 2.5 g. (36% yield) of green crystalline product, m.p. 122°-124° C.

reactant | 2-amino-5,6-dichloro-3-mercaptopyrazine | 0.025 mol | NC1=NC(=C(N=C1S)Cl)Cl | C4H3Cl2N3S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dichloro-2-trifluoromethylthiazolo(4,5-b)pyrazine | ClC1=C(N=C2C(=N1)N=C(S2)C(F)(F)F)Cl | C6Cl2F3N3S
